US09233946B2
7-Chloro-3-methylbenzothiophene-2-sulfonyl chloride
A mixture of potassium 7-chloro-3-methylbenzothiophene-2-sulfonate (100 mg, 0.34 mmol) in POCl3 (5 mL) was heated at 60° C. over night. The POCl3 was evaporated and the crude product was purified on a small amount of silica using CH2Cl2 as eluent to give 58 mg of the title compound (61%).

reactant | potassium 7-chloro-3-methylbenzothiophene-2-sulfonate | 0.34 mmol, 100 mg | ClC1=CC=CC=2C(=C(SC21)S(=O)(=O)[O-])C.[K+]
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-3-methylbenzothiophene-2-sulfonyl chloride | 58 mg, 61% | ClC1=CC=CC=2C(=C(SC21)S(=O)(=O)Cl)C | C9H6Cl2O2S2
